US05612377
1-Hydroxy-1-(1-ethylpropyl)-3-(biphenyl-4-yl)urea
Using the general method of Compound 76, 4-biphenylcarboxylic acid (1.3 g, 6.5 mmole) was converted to the isocyanate then reacted with N-(1-ethylpropyl)hydroxylamine (1.0 g, 10 mmole) to provide 0.54 g of the desired product as a white crystalline solid, m.p. 183°-184° C. Analysis: Calculated for C18H22N2O2 : %C, 72.46; %H, 7.43; %N, 9.39; Found: %C, 72.38; %H, 7.15; %N, 9.26.

reactant | 4-biphenylcarboxylic acid | 6.5 mmole, 1.3 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | isocyanate | [N-]=C=O
reactant | N-(1-ethylpropyl)hydroxylamine | 10 mmole, 1.0 g | C(C)C(CC)NO | C5H13NO
product | 1-Hydroxy-1-(1-ethylpropyl)-3-(biphenyl-4-yl)urea | 0.54 g | ON(C(=O)NC1=CC=C(C=C1)C1=CC=CC=C1)C(CC)CC | C18H22N2O2
